US07030201B2
Succinimide-Glycidyl Methacrylate (GMA) Adduct
22.7 g (0.16 mol) of glycidyl methacrylate, 15.5 g (0.16 mol) of succinimide and 1.0 g (4.0 mmol) of benzyltriethylamine chloride were placed into a suitably sized reaction vessel fitted with a stirrer and a nitrogen gas source. 200 g of cyclohexanone were added to dissolve the materials. The mixture was stirred at a temperature of about 105 to about 120° C. for 24 hours until the reaction was completed. The reaction yielded 238 g in total amount of solution, which contained 16 wt % of the succinimide-GMA adduct.

reactant | glycidyl methacrylate | 0.16 mol, 22.7 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | succinimide | 0.16 mol, 15.5 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | benzyltriethylamine chloride | 4.0 mmol, 1.0 g | [Cl-].C(C1=CC=CC=C1)CCN(CC)CC
reactant | cyclohexanone | 200 g | C1(CCCCC1)=O | C6H10O
product | Succinimide Glycidyl Methacrylate | C1(CCC(N1)=O)=O.C(C(=C)C)(=O)OCC1CO1 | InChI=1S/C7H10O3.C4H5NO2/c1-5(2)7(8)10-4-6-3-9-6;6-3-1-2-4(7)5-3/h6H,1,3-4H2,2H3;1-2H2,(H,5,6,7)
